### PR TITLE
feat(AffineSpace): `toAffineSubspace` lemmas

### PR DESCRIPTION
**Pull request by vlad902**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 1]
```diff
@@ -1149,15 +1157,19 @@ lemma affineSpan_subset_span {s : Set V} :
     (affineSpan k s : Set V) ⊆ Submodule.span k s :=
   affineSpan_le_toAffineSubspace_span
 
--- TODO: We want this to be simp, but `affineSpan` gets simp-ed away to `spanPoints`!
--- Let's delete `spanPoints`
+@[simp]
 lemma affineSpan_insert_zero (s : Set V) :
-    (affineSpan k (insert 0 s) : Set V) = Submodule.span k s := by
```
Comment (vlad902) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:1155]: Note that the previous coercion version of this lemma is now `by simp`.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 2]
```diff
@@ -1149,15 +1157,19 @@ lemma affineSpan_subset_span {s : Set V} :
     (affineSpan k s : Set V) ⊆ Submodule.span k s :=
   affineSpan_le_toAffineSubspace_span
 
--- TODO: We want this to be simp, but `affineSpan` gets simp-ed away to `spanPoints`!
--- Let's delete `spanPoints`
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:1153]: Let's keep the "TODO: Let's delete spanPoints" part and move it to the top of the file.

**Review by wwylele — APPROVED** [review]

**Review by wwylele — APPROVED** [review]

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 3]
```diff
@@ -220,10 +224,32 @@ variable {k V : Type*} [Ring k] [AddCommGroup V] [Module k V]
...
+  zero_mem' := by simpa
+  smul_mem' c x hx := by simpa using p.smul_vsub_vadd_mem' c hx hp hp
+
+@[simp]
+theorem ofAffineSubspace_toAffineSubspace {p : AffineSubspace k V} (hp : 0 ∈ p) :
+    ↑(ofAffineSubspace hp) = p := rfl
+
+@[simp]
+theorem toAffineSubspace_ofAffineSubspace {p : Submodule k V} (hp : 0 ∈ p) :
+    ↑(ofAffineSubspace (p := p) hp) = p := rfl
```
Comment (martinwintermath) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: `(p := p)` necessary?

Comment (martinwintermath) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: I don't think we want the hypothesis `hp`. It is just `Submodule.zero_mem`, right? But then the statement would contain a proof, which is weird. So I actually don't know what is the policy here.

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Thinking some more, I am not sure we need this lemma at all. It is a triple-coercion: we coerce `p` from `Submodule` to `AffineSubspace`, then back via `ofAffineSubspace`, and then to `Submodule` once more to compare to `p`.

Comment (vlad902) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: I don't follow your point about the coercions--it is just a double coercion, no? e.g. the term is
```lean4
Submodule.ofAffineSubspace (p := p.toAffineSubspace) hp = p
```
and above the lemma above would be:
```lean4
(Submodule.ofAffineSubspace (p := p) hp).toAffineSubspace = p
```

Comment (vlad902) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Regarding `hp` I think you're right that it's not necessary. I had previously thought that simp may only match against exact proof terms, though given proof irrelevance this doesn't really make sense and some local tests seem to indicate that it's not more general.

Comment (martinwintermath) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Yeah, I don't get my comment anymore either.

Regarding the proof in statement: I have seen people write `by exact ...` in this case to hide the proof (Yaël specifically). But I don't have a good understanding here, so I want to hear @YaelDillies's opinion.
